US07501411B2
Step 2: 4-Bromothiazole-2-carboxylic acid ethyl ester
To a solution of dibromothiazole (1 g, 4.15 mmol) in THF (15 mL) at 0° C., is added dropwise a solution of iPrMgCl in THF (2 M, 2.3 mL, 4.57 mmol, 1.10 equiv.). The reaction is stirred at 0° C. for 0.25 h. To the resulting orange solution is added via a cannula, diethyl carbonate (3 mL) in THF (5 ml). The resulting green solution is stirred further at room temperature for 0.5 h, at which point the reaction is quenched by adding saturated NH4Cl. The title compound is purified by LC using 6/4 cyclohexane/DCM as the eluent to afford 514.2 mg (52%) of the title compound as a pale yellow powdery solid.

reactant | dibromothiazole | 4.15 mmol, 1 g | BrC=1N=C(SC1)Br | C3HBr2NS
reactant | iPrMgCl | C(C)(C)[Mg]Cl
reactant | diethyl carbonate | 3 mL | C(OCC)(OCC)=O | C5H10O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 4.57 mmol, 2 M, 2.3 mL, 1.10 equiv. | C1CCOC1 | C4H8O
product | 4-Bromothiazole-2-carboxylic acid ethyl ester | 514.2 mg, 52% | C(C)OC(=O)C=1SC=C(N1)Br | C6H6BrNO2S
